US07456177B2
Preparation of 11-Methyl-3,11-diaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene dihydrochloride
3,11-Diaza-tricyclo[7.3.1.02,7]trideca-2,4,6-triene-11-carbaldehyde (75 mg, 0.4 mmol) was stirred in 1M BH3.THF complex (3 mL) at reflux for 18 h at which time additional 1M BH3.THF complex was introduced (3 mL). Heating was continued for 3 days at which time the mixture was cooled and treated with 1N HCl (5 mL) and conc. HCl (1 mL) and the resulting mixture refluxed for 24 h. The mixture was cooled, treated with solid NaOH to achieve pH 10 and extracted with EtOAc (4×10 mL). The organic layer was washed with saturated aqueous NaCl solution (30 mL), dried over Na2SO4, filtered and concentrated to give 48 mg. This material was dissolved in MeOH and treated with 1 mL 3N HCl/EtOAc solution, stirred and concentrated. After recrystallization from MeOH/Et2O, product was filtered and dried to give white solids (49 mg 59%). Mp 260–266° C.; (TLC ˜0.2% NH3/5% CH3OH/dichloromethane Rf 0.33); 1H NMR (400 MHz, CD3OD) δ 8.73 (d, J=5.0 Hz, 1H), 8.42 (d, J=8.1 Hz, 1H), 7.95 (m, 1H), 3.78–3.15 (m, 7H), 2.82 (s, 3H), 2.74 (br s, 1H), 2.28 (d, J=13.6 Hz, 1H), 2.09 (d, J=13.6 Hz, 1H); GCMS m/z 188 (M+).

reactant | 3,11-Diaza-tricyclo[7.3.1.02,7]trideca-2,4,6-triene-11-carbaldehyde | 0.4 mmol, 75 mg | C12C3=NC=CC=C3CC(CN(C1)C=O)C2 | C12H14N2O
reactant | HCl | 1N, 5 mL | Cl | ClH
reactant | HCl | 1 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | HCl EtOAc | 3N, 1 mL | Cl.CCOC(=O)C
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 11-Methyl-3,11-diaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene dihydrochloride | Cl.Cl.CN1CC2CC=3C=CC=NC3C(C1)C2 | InChI=1S/C12H16N2.2ClH/c1-14-7-9-5-10-3-2-4-13-12(10)11(6-9)8-14;;/h2-4,9,11H,5-8H2,1H3;2*1H
